US03971819
To a suspension of 3-nitro-4-phenoxy-5-sulphamyl-benzamide (2.4 g) in water (25 ml) 1N lithium hydroxide (10 ml) was added. The resulting solution was hydrogenated at room temperature and at 1.1 atmospheres hydrogen pressure after addition of Pd-on-carbon catalyst (0.2 g catalyst containing 10% Pd). After the hydrogen uptake had become negligible, the catalyst was removed by filtration, and the filtrate was then adjusted to pH 7.5 by addition of 4N hydrochloric acid. The precipitated 3-amino-4-phenoxy-5-sulphamyl-benzamide was isolated and dried in vacuo. The compound was obtained with a melting point of 291°-292°C.

reactant | 3-nitro-4-phenoxy-5-sulphamyl-benzamide | 2.4 g | [N+](=O)([O-])C=1C=C(C(=O)N)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H11N3O6S
reactant | hydrogen | [H][H] | H2
solvent | water | 1N, 25 ml | O | H2O
product | 3-amino-4-phenoxy-5-sulphamyl-benzamide | NC=1C=C(C(=O)N)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H13N3O4S
